US08536169B2
2-(Ethyloxy)-N-[6-(1H-indol-4-yl)-1H-indazol-4-yl]benzamide
To a solution of 2-(ethyloxy)benzoic acid (67 mg, 0.40 mmol) in DMF (1 ml), HATU (248 mg, 0.40 mmol) and DIPEA (0.211 mL, 1.21 mmol) were added. The reaction was stirred for 30 mins under nitrogen before addition of 6-(1H-indol-4-yl)-1H-indazol-4-amine (50 mg, 0.20 mmol). The reaction was stirred overnight then it was loaded onto a PS-aminopropyl cartridge (5 g) and left for 3 h. The cartridge was washed with 10% MeOH in DCM. Appropriate fractions were combined and the solvent was evaporated. The residue was dissolved in MeOH:DMSO (1 ml; 1:1, v/v) and purified by Mass Directed Automated Preparative HPLC using method B. Appropriate fractions were dried under a stream of nitrogen to give title compound, 27 mg.

reactant | 2-(ethyloxy)benzoic acid | 0.40 mmol, 67 mg | C(C)OC1=C(C(=O)O)C=CC=C1 | C9H10O3
reactant | HATU | 0.40 mmol, 248 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.21 mmol, 0.211 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-(1H-indol-4-yl)-1H-indazol-4-amine | 0.20 mmol, 50 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NNC2C1)N | C15H12N4
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-(Ethyloxy)-N-[6-(1H-indol-4-yl)-1H-indazol-4-yl]benzamide | C(C)OC1=C(C(=O)NC2=C3C=NNC3=CC(=C2)C2=C3C=CNC3=CC=C2)C=CC=C1 | C24H20N4O2
